US04367234
4-Chloro-3-methylanisole (15.4 g., 0.10 mole) was taken into 200 ml. of methylene chloride and cooled to 0° C. Titanium tetrachloride (37.9 g., 0.2 mole) and then 1,1-dichloromethyl methyl ether (13.8 g., 0.12 mole) were added, each over a 2 minute period. The reaction mixture was stirred at room temperature for 1 hour, poured over 500 ml. of ice and water and the organic layer separated. The aqueous layer was extracted with two portions of fresh methylene chloride and these extracts combined with the original organic layer. The combined organic layers were washed with brine, dried over anhydrous magnesium sulfate, filtered and concentrated dryness (15.2 g., 82%), containing two thirds 5-chloro-2-methoxy-4-methylbenzaldehyde [Rf 0.35 (1:1 chloroform: hexane] and one third of the desired isomeric product [Rf 0.28 (1:1 chloroform:hexane]. These two compounds were separated by chromatography on 1 kg. of silica gel, eluting with 1:1 methylene chloride:hexane, collecting 15 ml. fractions and monitoring by tlc. Fractions 115-140 were combined and evaporated to dryness to yield the undesired Rf 0.35 isomer (860 mg., m.p. 86°-88° C.). Fractions 240-310 were combined to yield the desired 3-chloro-6-methoxy-2-methylbenzaldehyde [1.61 g.; m.p. 95°-97° C., pnmr/CDCl3 /delta 2.4 (s, 3H), 3.9 (s, 3H), 6.8 (s, 1H), 7.7 (s, 1H), 10.4 (s, 1H); Rf 0.28 (1:1 methylene chloride:hexane)].

reactant | 4-Chloro-3-methylanisole | 0.10 mole, 15.4 g | ClC1=C(C=C(C=C1)OC)C | C8H9ClO
reactant | 1,1-dichloromethyl methyl ether | 0.12 mole, 13.8 g | COC(Cl)Cl | C2H4Cl2O
catalyst | Titanium tetrachloride | 0.2 mole, 37.9 g | [Ti](Cl)(Cl)(Cl)Cl
solvent | methylene chloride | C(Cl)Cl | CH2Cl2
product | 3-chloro-6-methoxy-2-methylbenzaldehyde | ClC=1C(=C(C=O)C(=CC1)OC)C | C9H9ClO2
